US08097628B2
(b) Title compound: 5-Chloro-6-ethyl-3-pyridinecarbaldehyde
MnO2 (620 mg, 7.13 mmol) was added to a solution of (5-chloro-6-ethyl-3-pyridinyl)methanol (103 mg, 0.600 mmol) in DCM (4 ml) and the mixture was stirred at room temperature overnight. TLC (10% DCM/MeOH) showed starting material remaining. An excess of MnO2 (261 mg, 3.00 mmol) was added. After stirring for 3 h, the reaction went to completion. The resulting suspension was filtered and washed with DCM. The filtrate was concentrated under reduced pressure to give 52 mg of the title compound as colourless oil.

reactant | (5-chloro-6-ethyl-3-pyridinyl)methanol | 0.600 mmol, 103 mg | ClC=1C=C(C=NC1CC)CO | C8H10ClNO
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 7.13 mmol, 620 mg | O=[Mn]=O
catalyst | MnO2 | 3.00 mmol, 261 mg | O=[Mn]=O
product | 5-Chloro-6-ethyl-3-pyridinecarbaldehyde | 52 mg | ClC=1C=C(C=NC1CC)C=O | C8H8ClNO
